US04788185
Two grams of 7β-[2-(2-amino-5-chlorothiazol-4-yl)-2(Z)-(tert-butoxycarbonylmethoxyimino)acetamido]-3-(3-oxobutyryloxymethyl)-3-cephem-4-carboxylic acid is dissolved in 20 ml of trifluoroacetic acid. The solution is stirred at room temperature for 1 hour and then evaporated to dryness under reduced pressure to give crude 7β-[2-(2-amino-5-chlorothiazol-4-yl)-2(Z)-(carboxymethoxyimino)acetamido]-3-(3-oxobutyryloxymethyl)-3-cephem-4-carboxylic acid.

reactant | 7β-[2-(2-amino-5-chlorothiazol-4-yl)-2(Z)-(tert-butoxycarbonylmethoxyimino)acetamido]-3-(3-oxobutyryloxymethyl)-3-cephem-4-carboxylic acid | Two grams | NC=1SC(=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(CC(C)=O)=O)C(=O)O)C1=O)=N/OCC(=O)OC(C)(C)C)Cl | C23H26ClN5O10S2
solvent | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 7β-[2-(2-amino-5-chlorothiazol-4-yl)-2(Z)-(carboxymethoxyimino)acetamido]-3-(3-oxobutyryloxymethyl)-3-cephem-4-carboxylic acid | NC=1SC(=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(CC(C)=O)=O)C(=O)O)C1=O)=N/OCC(=O)O)Cl | C19H18ClN5O10S2
